US06355798B1
7-Cyclobutyl-6-(morpholin-4yl)-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine
6-Chloro-7-cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine (100 mg, 0.35 mmol), morpholine (154 mg, 1.8 mmol) and triethylamine (178 mg, 1.8 mmol) were heated in 1,4 dioxane (6 ml) in a sealed tube at 90° C. for 24 h. The reaction mixture was partitioned (ethyl acetate/water). The organic layer was washed (water, brine), dried (MgSO4) and was evaporated in vacuo. The residue was purified by chromatography on silica gel, eluting with ethyl acetate to give the title compound. 1H NMR (250 MHz, CDCl3) δ 1.96-2.88 (1H, m), 2.48 (2H, m), 3.25-3.28 (4H, m), 3.70-3.76 (1H, m), 3.90-3.94 (4H, m), 7.52-7.55 (3H, m), 7.98 (1H, s), 8.49 (2H, s); MS (ES+) m/e 336 [MH]+.

reactant | 6-Chloro-7-cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine | 0.35 mmol, 100 mg | ClC=1C(=CC=2N(N1)C(=NN2)C2=CC=CC=C2)C2CCC2 | C15H13ClN4
reactant | morpholine | 1.8 mmol, 154 mg | N1CCOCC1 | C4H9NO
reactant | triethylamine | 1.8 mmol, 178 mg | C(C)N(CC)CC | C6H15N
solvent | 1,4 dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 7-Cyclobutyl-6-(morpholin-4yl)-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine | C1(CCC1)C1=CC=2N(N=C1N1CCOCC1)C(=NN2)C2=CC=CC=C2 | C19H21N5O
